US04659718
A mixture of 4-hydroxy-3-(1-methyl-1H-tetrazol-5-yl)quinoline (2 g), ethyl iodide (1.1 ml), anhydrous potassium carbonate (1.83 g) and dimethylformamide (100 ml) was stirred and heated on a steam bath for 18 hours. The mixture was evaporated under reduced pressure and the residue dissolved in industrial methylated spirit (100 ml). Dilution with diethyl ether (100 ml) gave a white precipitate which was collected and extracted with hot dichloromethane (100 ml). The extract was evaporated to give the novel compound 1-ethyl-3-(1-methyl-1H-tetrazol-5-yl)-4-quinolone, m.p. 170°-176°.

reactant | 4-hydroxy-3-(1-methyl-1H-tetrazol-5-yl)quinoline | 2 g | OC1=C(C=NC2=CC=CC=C12)C1=NN=NN1C | C11H9N5O
reactant | ethyl iodide | 1.1 ml | C(C)I | C2H5I
reactant | potassium carbonate | 1.83 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-ethyl-3-(1-methyl-1H-tetrazol-5-yl)-4-quinolone | C(C)N1C=C(C(C2=CC=CC=C12)=O)C1=NN=NN1C | C13H13N5O
